US08877782B2
{6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-morpholin-4-yl-methanone
As described for example 90, 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (103 mg, 0.3 mmol) was converted, using morpholine instead of cyclopropylmethylamine, to the title compound (60 mg, 50%) which was obtained as a colourless gum. MS: m/e=398.3 [M+H]+.

reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.3 mmol, 103 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | {6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-morpholin-4-yl-methanone | 60 mg, 50% | FC=1C=C(C=CC1)C1=NOC(=C1COC1=CC=C(C=N1)C(=O)N1CCOCC1)C | C21H20FN3O4
